US03954754
EXAMPLE 60: 6-(3,3-Diphenylpropionyl)-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A solution of 1.5 g of 6-(3,3-diphenylpropionyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 40 cc of absolute acetone is heated on a water bath for 35 minutes. The title compound has a M.P. of 172°-175° (decomp., from absolute ethanol).

reactant | 6-(3,3-diphenylpropionyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 1.5 g | C1(=CC=CC=C1)C(CC(=O)N1CC2=C(N=NC(=C2)NN)CC1)C1=CC=CC=C1 | C22H23N5O
reactant | acetone | 40 cc | CC(=O)C | C3H6O
product | 6-(3,3-Diphenylpropionyl)-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C1(=CC=CC=C1)C(CC(=O)N1CC2=C(N=NC(=C2)NN=C(C)C)CC1)C1=CC=CC=C1 | C25H27N5O
